US08304557B2
tert-butyl (3-hydroxy-4-methylphenyl)carbamate
To a solution of 5-amino-2-methylphenol (10.0 g, 81.2 mmol) and triethylamine (16.9 mL, 122 mmol) in tetrahydrofuran (75 mL) was added dropwise with stirring under ice-cooling a solution of di-tert-butyl-dicarbonate (19.5 g, 89.3 mmol) in tetrahydrofuran (25 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=95/5→50/50) to give the title compound (3.25 g, 18%) as a colorless oil.

reactant | 5-amino-2-methylphenol | 81.2 mmol, 10.0 g | NC=1C=CC(=C(C1)O)C | C7H9NO
reactant | triethylamine | 122 mmol, 16.9 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 89.3 mmol, 19.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl (3-hydroxy-4-methylphenyl)carbamate | 3.25 g, 18% | OC=1C=C(C=CC1C)NC(OC(C)(C)C)=O | C12H17NO3
